US04740561
A maleic anhydride copolymer and an aminophenol are heated in an organic solvent such as dimethylformamide to 0°-150° C., preferably 10°-100° C., more preferably 50°-100° C. for 1-20 hours to convert a portion or whole of the maleic anhydride units into N-(hydroxyphenyl)maleamic acid unit. To the reaction mixture is added a tertiary amine catalyst, and is further added an azeotropic agent (i.e., azeotropic solvent) such as toluene or xylene for removing water produced upon cyclization-dehydration reaction. The resulting mixture is then heated to 80°-200° C., preferably 100°-150° C., for 1-20 hours for performing a cyclization-dehydration reaction, to obtain the desired N-(hydroxyphenyl)maleimide copolymer.

reactant | maleic anhydride | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | aminophenol | NC1=C(C=CC=C1)O | C6H7NO
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | N-(hydroxyphenyl)maleamic acid | OC1=C(C=CC=C1)NC(\C=C/C(=O)O)=O | C10H9NO4
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-(hydroxyphenyl)maleimide | OC1=C(C=CC=C1)N1C(C=CC1=O)=O | C10H7NO3
